US06320050B1
A solution of 6-[3-cyclopentyl-2-(4-methanesulfonyl-phenyl)-propionylamino]-nicotinic acid methyl ester (prepared in example 53(B)(a), 110 mg, 0.26 mmol) in diethyl ether (500 μL) was cooled to 0° C. and then slowly treated with lithium aluminum hydride (15 mg, 0.38 mmol). The reaction mixture was stirred at 0° C. for 30 min then allowed to warm to 25° C. After 1 h at 25° C., thin layer chromatography still indicated the presence of the starting material. An additional amount of lithium aluminum hydride (10 mg, 0.26 mmol) was added to the reaction mixture, and the reaction mixture was allowed to stir at 25° C. for 1 h. The reaction mixture was then slowly quenched by the dropwise addition of water (10 mL). The resulting mixture was partitioned between water and ethyl acetate. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, ⅓ hexanes/ethyl acetate) afforded the 3-cyclopentyl-N-(5-hydroxymethyl-pyridin-2-yl)-2-(4-methanesulfonyl-phenyl)-propionamide (60 mg, 57%) as a yellow foam: mp 74-77° C.; EI-HRMS m/e calcd for C21H26N2O4S (M+) 402.1613, found 402.1617.

reactant | 6-[3-cyclopentyl-2-(4-methanesulfonyl-phenyl)-propionylamino]-nicotinic acid methyl ester | 0.26 mmol, 110 mg | COC(C1=CN=C(C=C1)NC(C(CC1CCCC1)C1=CC=C(C=C1)S(=O)(=O)C)=O)=O | C22H26N2O5S
reactant | lithium aluminum hydride | 0.38 mmol, 15 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | lithium aluminum hydride | 0.26 mmol, 10 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | diethyl ether | 500 μL | C(C)OCC | C4H10O
product | 3-cyclopentyl-N-(5-hydroxymethyl-pyridin-2-yl)-2-(4-methanesulfonyl-phenyl)-propionamide | 60 mg, 57% | C1(CCCC1)CC(C(=O)NC1=NC=C(C=C1)CO)C1=CC=C(C=C1)S(=O)(=O)C | C21H26N2O4S
